US06479483B2
A solution of 2.5 g (7.4 mMol) N-benzyl-6-chloro-4-o-tolyl-nicotinamide and 3.3 ml (29.7 mMol) N-methyl-piperazine in 25 ml ethyl acetate was heated to 80° C. for 18 hours. After adding 1.65 ml (14.8 mMol) N-methyl-piperazine, the reaction mixture was further heated 2 hours at 80° C., and after a new addition of 1.65 ml (14.8 mMol) N-methyl-piperazine 6 hours at 85° C. It was then concentrated under reduced pressure and the residue was filtered on silica gel (eluent: CH2Cl2/MeOH 5:1) to yield 2.21 g (74%) N-benzyl-6-(4-methyl-piperazin-1-o-tolyl-nicotinamide as a yellow resin.

reactant | N-benzyl-6-chloro-4-o-tolyl-nicotinamide | 7.4 mMol, 2.5 g | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)Cl)=O | C20H17ClN2O
reactant | N-methyl-piperazine | 29.7 mMol, 3.3 ml | CN1CCNCC1 | C5H12N2
reactant | N-methyl-piperazine | 14.8 mMol, 1.65 ml | CN1CCNCC1 | C5H12N2
reactant | N-methyl-piperazine | 14.8 mMol, 1.65 ml | CN1CCNCC1 | C5H12N2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-methyl-piperazin 1-o-tolyl-nicotinamide | CN1CCNCC1.C1(=C(C=CC=C1)N1CC(C(=O)N)=CC=C1)C | InChI=1S/C13H14N2O.C5H12N2/c1-10-5-2-3-7-12(10)15-8-4-6-11(9-15)13(14)16;1-7-4-2-6-3-5-7/h2-8H,9H2,1H3,(H2,14,16);6H,2-5H2,1H3
